US07582629B2
Step C 4-Chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide
DMF (25 mL) and oxalyl chloride (0.2 mL, 2.29 mmol) were added separately to a solution of 4-hydroxy-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.5 g, 1.87 mmol) in DCM (25 mL) at 0° C. The reaction mixture was then heated at 50° C. for 4 h, water was added and the resulting mixture was extracted with EtOAc. The combined organic layers were washed with water, then brine and evaporated. The residue was purified by silica gel column chromatography using a 4:1 mixture of hexane and EtOAc as eluant to give the title compound (0.25 g, 46%) as a solid; 1H NMR (200 MHz, CDCl3): δ 8.10-7.94 (m, 2H), 7.61-7.50 (m, 3H), 4.50 (sep, 1H), 1.61 (s, 3H), 1.65 (s, 6H).

reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 2.29 mmol, 0.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-hydroxy-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 1.87 mmol, 0.5 g | OC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O | C12H13NO4S
reactant | water | O | H2O
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 4-Chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.25 g, 46% | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O | C12H12ClNO3S
